US07777047B2
2-(5-methyl-2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)ethyl methanesulfonate
To a solution of N-{2-[5-(2-hydroxyethyl)-5-methyl-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.75 g) and triethylamine (0.50 mL) in tetrahydrofuran (10 mL) was slowly added methanesulfonyl chloride (0.20 mL) at 0° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (0.56 g, yield 65%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (3:1, volume ratio). melting point 149-150° C.

reactant | N-{2-[5-(2-hydroxyethyl)-5-methyl-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.75 g | OCCC1(CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)C | C19H21N3O3S3
reactant | triethylamine | 0.50 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.20 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(5-methyl-2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)ethyl methanesulfonate | 0.56 g, yield 65% | CS(=O)(=O)OCCC1(CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)C | C20H23N3O5S4
